Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],3.77945079198
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.0597886473
[C:1]=[O:2].[C:3](\[O:4][H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][O:2]/[C:3]([O:4][H:5])=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11],1.20510112985
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]#[C:6],4.763768432819999
[C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-6.057425951950001
[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],1.3630240826
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-5.16969175249
[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8],1.75777075975
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1([H:9])[H:10]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[O:7])[C:8]([H:9])[H:10],-0.55265195785
[C:5][C:6][O:7].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]=[C:6]=[O:7],-0.98160338685
[C:7]([H:8])([H:9])=[C:10][O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15],0.20440812445
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10][O:11][O:12]>>[H:1][C:2]([H:3])([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10][O:11][O:12]1,-0.34606665406
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.65395630548
[H:1][C:2]=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-5.10326482949
[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.56895758649
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:1]([C:2]([H:3])[C:11]([H:12])([H:13])[O:14][H:15])([H:4])([H:6])[H:10].[C:5]=[C:7]([H:8])[H:9],1.14148369391
[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.41086693118
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2][C:5]([H:6])([H:7])[H:8].[O:3][H:4],6.12398603143
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6],2.49708183582
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.27316313866
[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.60413388642
[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-1.9652516987
[C:9]([H:10])[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-7.36431695098
[O:1]=[C:2]([H:3])[O:4][H:5]>>[H:3].[O:1]=[C:2][O:4][H:5],4.22211231509
[C:2](#[C:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([C:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.83177205072
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8],4.49313657992
[H:8].[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:9]([H:10])=[C:11][H:12]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11][H:12],-2.2967470691400003
[H:1][C:2][C:3](=[C:4][H:5])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:6][H:7]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.95777422685
[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.45132539204
[C:1]#[C:2][C:3](=[C:4]=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1][C:2]#[C:3][C:6]([H:7])([H:8])[H:9].[C:4]=[O:5],1.41023235486
